US07524847B2
4-(8-Chloro-9-methyl-9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester
N-chlorosuccinimide (1.25 g) was added to a solution of 4-(9-methyl-9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester (2.70 g) in N,N-dimethylformamide (30 mL), and this was stirred at room temperature for 20 hours. Ethyl acetate (200 mL) and water (50 mL) were added, the organic layer was washed twice with 50 mL of water and then once with 50 mL of saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The organic layer was filtered and then concentrated under reduced pressure. The residue was purified by silica gel chromatography, and the ethyl acetate:hexane 4:1 fraction gave the title compound (1.97 g).

reactant | N-chlorosuccinimide | 1.25 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-(9-methyl-9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester | 2.70 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=CN(C2=NC=N1)C | C15H22N6O2
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-(8-Chloro-9-methyl-9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester | 1.97 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=C(N(C2=NC=N1)C)Cl | C15H21ClN6O2
